US05051422
N-(4-Aminophenyl)-4-phenyl-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 20, react N-(4-nitrophenyl)-4-phenyl-1-(phenylmethyl)-2-piperazinecarboxamide (6.85 g, 16.8 mmol) with tin (II) chloride dihydrate (18.5 g, 82 mmol) to obtainthe title compound.

reactant | N-(4-nitrophenyl)-4-phenyl-1-(phenylmethyl)-2-piperazinecarboxamide | 16.8 mmol, 6.85 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)C1N(CCN(C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C24H24N4O3
reactant | tin (II) chloride dihydrate | 82 mmol, 18.5 g | O.O.[Sn](Cl)Cl
product | N-(4-Aminophenyl)-4-phenyl-1-(phenylmethyl)-2-piperazinecarboxamide | NC1=CC=C(C=C1)NC(=O)C1N(CCN(C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C24H26N4O
